US07759373B2
A mixture of 2-(diformyl-amino)-2′-methoxyacetophenone (3.28 g) and 5% hydrogen chloride-ethanol solution (37 ml) was stirred at room temperature for 17 hours. The reaction mixture was concentrated under reduced pressure and the residue was triturated with diethyl ether. To the powder was again added 5% hydrogen chloride-ethanol solution and the mixture was stirred at room temperature for one day, and the mixture was concentrated under reduced pressure. The residue was washed with diethyl ether and ethyl acetate to obtain 2-amino-2′-methoxyacetophenone hydrochloride (2.91 g) as colorless solid.

reactant | 2-(diformyl-amino)-2′-methoxyacetophenone | 3.28 g | C(=O)N(CC(=O)C1=C(C=CC=C1)OC)C=O | C11H11NO4
reactant | hydrogen chloride ethanol | 37 ml | Cl.C(C)O
product | 2-amino-2′-methoxyacetophenone hydrochloride | 2.91 g | Cl.NCC(=O)C1=C(C=CC=C1)OC | InChI=1S/C9H11NO2.ClH/c1-12-9-5-3-2-4-7(9)8(11)6-10;/h2-5H,6,10H2,1H3;1H
